US07888364B2
A solution of 500 mg of 4-bromo-2-methylbenzonitrile and 268 mg of sodium thiomethoxide in 3 mL of DMF was stirred for 1 h. The reaction mixture was diluted with ethyl acetate, washed with H2O, dried (MgSO4) and evaporated to afford 2-methyl-4-(methylthio)benzonitrile. 400 mg of 2-methyl-4-(methylthio)benzonitrile was reacted via Procedure T to give 2-methyl-4-(methylthio)benzoic acid. 430 mg of 2-methyl-4-(methylthio)benzoic acid was reacted via Procedure R to yield 2-methyl-4-(methylsulfonyl)benzoic acid. 60 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 2-methyl-4-(methylsulfonyl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methyl-4-(methylsulfonyl)benzamide. MS (Q1) 401.0 (M)+.

reactant | 4-bromo-2-methylbenzonitrile | 500 mg | BrC1=CC(=C(C#N)C=C1)C | C8H6BrN
reactant | sodium thiomethoxide | 268 mg | C[S-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-methyl-4-(methylthio)benzonitrile | CC1=C(C#N)C=CC(=C1)SC | C9H9NS
